US07709054B2
In the absence of light, the precipitated CdSe nanocrystals are dissolved in the MUA-methanol solution. The resulting solution is stirred under an Argon flow for about 2 hours to form mercaptoundecanoic acid (MUA)-capped CdSe nanocrystals. Ethyl acetate and ethyl ether are used to precipitate and wash (repeatedly between about 2 and 3 times) the MUA-capped CdSe nanocrystals. Subsequently, the MUA-capped CdSe nanocrystals preferably are dispersed in isopropanol to define a cadmium selenide (CdSe) solution.

reactant | MUA methanol | SC(C(=O)O)CCCCCCCCC.CO
solvent | CdSe | [Se-2].[Cd+2]
product | mercaptoundecanoic acid | SC(C(=O)O)CCCCCCCCC | C11H22O2S
